US08530388B2
To a solution of 5-bromo-2-cyclopropyliodobenzene (5.67 g, 0.018 mol) in anhydrous tetrahydrofuran (32 ml) at −78° C. is added isopropylmagnesium chloride (9.5 ml, 0.019 mol, 2M solution in THF) at such a rate as to maintain a temperature below −60° C. Once addition is complete the reaction mixture is stirred for 20 minutes at this temperature and then allowed to warm to room temperature and stir for an additional 2 hours. The solution is then cooled again to −78° C. and triisopropylborate (8.3 ml, 0.036 mol) is added dropwise. After stirring at this temperature for 10 minutes the solution is allowed to warm to room temperature and stir for an additional 2 hours. After quenching with 2M aqueous hydrochloric acid (20 ml) the reaction mixture is diluted with distilled water then extracted with ethyl acetate (×3). Organic fractions are combined, washed with distilled water and brine, then dried over magnesium sulfate and concentrated in vacuo. The crude solid is azeotroped with toluene (×3) then triturated with isohexane to afford 5-bromo-2-cyclopropylphenyl boronic acid as a cream solid.

reactant | 5-bromo-2-cyclopropyliodobenzene | 0.018 mol, 5.67 g | BrC=1C=CC(=C(C1)I)C1CC1 | C9H8BrI
reactant | isopropylmagnesium chloride | 0.019 mol, 2M, 9.5 ml | C(C)(C)[Mg]Cl
reactant | triisopropylborate | 0.036 mol, 8.3 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | tetrahydrofuran | 32 ml | O1CCCC1 | C4H8O
product | 5-bromo-2-cyclopropylphenyl boronic acid | BrC=1C=CC(=C(C1)B(O)O)C1CC1 | C9H10BBrO2
